US07910595B2
5-Fluoro-nicotinic acid
A mixture of 2,6-dichloro-5-fluoro-3-pyridinecarboxylic acid (3.00 g, 0.0143 mol), anhydrous sodium acetate (3.516 g, 0.0429 mol), and 10% palladium-on-carbon (0.300 g) in methanol (50 mL) was hydrogenated at 1 atmosphere hydrogen pressure (balloon) for 18 hours. The reaction was vacuum filtered through a 0.45μ PTFE membrane and the catalyst thoroughly washed with methanol (25 mL). The filtrate was concentrated by rotary evaporation in vacuo. The residue was taken up in ethyl acetate (100 mL) and water (30 mL), the aqueous pH adjusted to 3 with 6N aqueous hydrochloric acid, and the layers separated. The organic phase was washed with water (2×30 mL) and brine (30 mL), then dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo. This afforded the title compound as a white solid (1.293 g, 64%).

reactant | 2,6-dichloro-5-fluoro-3-pyridinecarboxylic acid | 0.0143 mol, 3.00 g | ClC1=NC(=C(C=C1C(=O)O)F)Cl | C6H2Cl2FNO2
reactant | sodium acetate | 0.0429 mol, 3.516 g | C(C)(=O)[O-].[Na+]
reactant | hydrogen | [H][H] | H2
solvent | methanol | 50 mL | CO | CH4O
catalyst | palladium-on-carbon | 0.300 g | [Pd] | Pd
product | 5-Fluoro-nicotinic acid | 1.293 g, 64% | FC=1C=NC=C(C(=O)O)C1 | C6H4FNO2
